US05665719
N-t-butyloxy-4-piperidinol was etherified with 2-chloro-4-hydroxybenzoic acid methyl ester usinf the DEAD/triphenylphosphine procedure given in Step 1 of Example 25. The crude product was purified by pressurized silica gel column chromatography using a gradient elution of 20-30% EtOAc-hexane. 4-(N-t-Butoxycarbonyl-4-piperidinyloxy)-2-chlorobenzoic acid methyl ester was obtained as a foam by evasporation of a DCM solution under reduced pressure (65% yield).

reactant | N-t-butyloxy-4-piperidinol | C(C)(C)(C)ON1CCC(CC1)O | C9H19NO2
reactant | 2-chloro-4-hydroxybenzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | DEAD triphenylphosphine | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(N-t-Butoxycarbonyl-4-piperidinyloxy)-2-chlorobenzoic acid methyl ester | 65% yield | COC(C1=C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)Cl)=O | C18H24ClNO5
